US04446146
N-Isopropylcyclohexylamine (12.4 g) in dry tetrahydrofuran (300 ml) was treated with 2 M n-butyllithium in n-hexane (44 ml) at -78° under argon. After five minutes 4-allyl-1-t-butyldimethylsilylazetidin-2-one (9.0 g) in dry tetrahydrofuran (100 ml) was added. Thirty minutes later iodomethane (70 ml) was added. The solution was stirred at -78° for 30 minutes and at room temperature for 2 hours, after which acetic acid (5.0 ml) was added. The solution was evaporated and partitioned between ethyl acetate and water. The organic phase was separated, dried (Na2SO4), evaporated and chromatographed on silica gel 60 (230 mesh) eluting with ethylacetate:petroleum ether (60-80) 1:3 to give as a mixture of two isomers 4-allyl-1-t-butyldimethylsilyl-3-methylazetidin-2-one (8.0 g).

reactant | N-Isopropylcyclohexylamine | 12.4 g | C(C)(C)NC1CCCCC1 | C9H19N
reactant | n-butyllithium | 2 M | C(CCC)[Li]
reactant | 4-allyl-1-t-butyldimethylsilylazetidin-2-one | 9.0 g | C(C=C)C1CC(N1[Si](C)(C)C(C)(C)C)=O | C12H23NOSi
reactant | iodomethane | 70 ml | IC | CH3I
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 44 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 4-allyl-1-t-butyldimethylsilyl-3-methylazetidin-2-one | 8.0 g | C(C=C)C1C(C(N1[Si](C)(C)C(C)(C)C)=O)C | C13H25NOSi
